US06762330B2
Synthesis of Diphenyl-p-tolylphosphine
A 100 mL of reactor equipped with magnetic stir bar was charged with 140 mg (0.15 mmol) of {[(t-Bu)2P(OH)]2PdCl}2, 1.27 g (10.0 mmol) of 4-chlorotoluene, and 10.0 mmol of KPPh2 in 30.0 mL of THF. The resulting mixture was refluxed for 17 h before the reaction was cooled to room temperature, quenched with with 20 mL of H2O. The phosphorus-31 NMR spectrum of the reaction mixture at this point showed the δ32.1 [˜10%, Ph2PH(O)] and −5.0 (˜90%, MeC6H4-PPh2) resonances.

reactant | 4-chlorotoluene | 10.0 mmol, 1.27 g | ClC1=CC=C(C=C1)C | C7H7Cl
reactant | KPPh2 | 10.0 mmol | C1=CC=C(C=C1)[P-]C2=CC=CC=C2.[K+]
solvent | THF | 30.0 mL | C1CCOC1 | C4H8O
product | Diphenyl-p-tolylphosphine | C1(=CC=CC=C1)P(C1=CC=C(C=C1)C)C1=CC=CC=C1 | C19H17P
